US07592457B2
4,6-dichloro-2-[2-(4-nitro-phenyl)-propionylamino]-benzoic acid methyl ester
The objective compound was prepared by the same procedure for the intermediate 1, using a 2-(4-nitro-phenyl)-propionic acid (1.40 g, 7.17 mmol), SOCl2 (5.1 mL, 71.7 mmol), and 2-amino-4,6-dichloro-benzoic acid methyl ester (1.6 g, 5.74 mmol). After normal workup, the pure objective compound (2.26 g, 99%) was obtained as pale yellow solid by recrystallization (ethyl acetate:ethyl ether=1:5): 1H NMR (200 MHz, CDCl3) δ 1.63 (d, J=7.1 Hz, 3H, CH3), 3.85-3.86 (m, 4H, CO2CH3 & CH), 7.18 (d, J=2.0 Hz, 1H, ArH), 7.54 (d, J=8.7 Hz, 2H, ArH), 8.24 (d, J=8.7 Hz, 2H, ArH), 8.45 (d, J=2.0 Hz, 1H, ArH), 9.59 (br s, 1H, ArH).

reactant | 2-(4-nitro-phenyl)-propionic acid | 7.17 mmol, 1.40 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)O)C | C9H9NO4
reactant | SOCl2 | 71.7 mmol, 5.1 mL | O=S(Cl)Cl | Cl2OS
reactant | 2-amino-4,6-dichloro-benzoic acid methyl ester | 5.74 mmol, 1.6 g | COC(C1=C(C=C(C=C1Cl)Cl)N)=O | C8H7Cl2NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl ether | C(C)OCC | C4H10O
product | 4,6-dichloro-2-[2-(4-nitro-phenyl)-propionylamino]-benzoic acid methyl ester | 2.26 g, 99% | COC(C1=C(C=C(C=C1Cl)Cl)NC(C(C)C1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C17H14Cl2N2O5
